US04374067
A stirred solution of N-[(2-methyl)phenyl]-2,2-dimethyl-propanamide (95.6 g, 0.5 mol) in THF (500 ml) was cooled to 0° C. and treated with 1.6 M n-butyllithium in hexane (628 ml, 0.1 mol). The addition of n-butyllithium was complete after 45 minutes. During the addition, the temperature of the mixture was maintained below 10° C. with external cooling. The resultant dianion solution was aged for 2 hours at 0° C. until the homogeneous orange solution became a yellow heterogeneous slurry. The dianion was then quenched with benzaldehyde (63.6 g, 0.6 mol) and aged for 15 minutes at about 24° C. The reaction mixture was diluted with ether (200 ml), treated with crushed ice (200 g), and stirred for 5 minutes. The organic phase was separated, washed with saturated sodium chloride (250 ml), dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. The residual oil was crystallized from hexane, filtered and recrystallized from dichloromethane (500 ml reflux) to give N-[2-(2-hydroxy-2-phenylethyl)-phenyl]-2,2-dimethylpropanamide (87 g, 0.29 mol) in 58% yield. The product had a melting point of 183°-184° C.

reactant | N-[(2-methyl)phenyl]-2,2-dimethyl-propanamide | 0.5 mol, 95.6 g | CC1=C(C=CC=C1)NC(C(C)(C)C)=O | C12H17NO
reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | hexane | 0.1 mol, 628 ml | CCCCCC | C6H14
reactant | benzaldehyde | 0.6 mol, 63.6 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | ether | 200 ml | CCOCC | C4H10O
product | N-[2-(2-hydroxy-2-phenylethyl)-phenyl]-2,2-dimethylpropanamide | 0.29 mol, 87 g, 58% yield | OC(CC1=C(C=CC=C1)NC(C(C)(C)C)=O)C1=CC=CC=C1 | C19H23NO2
